US07511050B2
Step B: 3-(methylthio)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
A solution of 9-pentyl-3-thioxo-2,3,6,9-tetrahydro-5h-[1,2,4]triazolo[4,3-a]purin-5-one (1.90 g, 6.83 mmol), dimethyl sulfate (1.03 g, 8.19 mmol) and 1 M of sodium hydroxide in water (25 ml) was stirred at room temperature for 1 hour. The mixture was nutralized to pH=7. The solid formed was filtered and dried to provide the desired product (1.70 g, 85.2%). 1HNMR (300 MHz, CD3OD): δ 4.29 (t, J=7.2 Hz, 2H), 2.65 (s, 3H), 1.89 (m, 2H), 1.40 (m, 4H), 0.92 (m, 3H). LCMS calculated for: C12H17N6OS (M+H) 294.1; found: 294.1.

reactant | 9-pentyl-3-thioxo-2,3,6,9-tetrahydro-5h-[1,2,4]triazolo[4,3-a]purin-5-one | 6.83 mmol, 1.90 g | C(CCCC)N1C=2N(C(C=3NC=NC13)=O)C(NN2)=S | C11H14N6OS
reactant | dimethyl sulfate | 8.19 mmol, 1.03 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | water | 25 ml | O | H2O
product | 3-(methylthio)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 1.70 g, 85.2% | CSC1=NN=C2N1C(C=1NC=NC1N2CCCCC)=O | C12H16N6OS
